US04781750
Preparation of N,N-Dimethyl-Beta-BenzyloxyAlphaethoxycarbonyl-2,4-Dichlorocinnamamide
A well stirred slurry of 10.0 g of N,N-dimethylalphaethoxycarbonyl-beta-hydroxy-2,4-dichlorocinnamamide, 8.3 g of powdered anh. K2CO3, and 100 ml of dry DMSO was heated to 100° C. for 30 min. To this mixture was added 6.5 g of benzyl iodide all at once and the mixture heated at 120° C. for 1 hour. The reaction was cooled to RT, 100 ml of CH2Cl2 and 100 ml of water added plus a few drops of concentrated HCl. The organic phase was collected, washed with saturated brine, dried with MgSO4, filtered and concentrated under reduced pressure to yield a light yellow gum. The crude product was taken up in a minimum amount of ether/hexane and the product allowed to crystallize, yielding 4.0 g of white solid, MP 115° C.

reactant | N,N-dimethylalphaethoxycarbonyl-beta-hydroxy-2,4-dichlorocinnamamide | 10.0 g | CN(C(C(=C(C1=C(C=C(C=C1)Cl)Cl)O)C(=O)OCC)=O)C | C14H15Cl2NO4
reactant | K2CO3 | 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
reactant | benzyl iodide | 6.5 g | C(C1=CC=CC=C1)I | C7H7I
catalyst | HCl | a few drops | Cl | ClH
solvent | ether hexane | CCOCC.CCCCCC
solvent | water | 100 ml | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-Beta-BenzyloxyAlphaethoxycarbonyl-2,4-Dichlorocinnamamide | 4.0 g | CN(C(C(=C(C1=C(C=C(C=C1)Cl)Cl)OCC1=CC=CC=C1)C(=O)OCC)=O)C | C21H21Cl2NO4
